US04831041
A mixture of 8-(4-ethoxycarbonylbenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine (1.04 g) in ethanol (15 ml) and 20% sulfuric acid (40 ml) was refluxed for 5 hours and then ethanol was evaporated in vacuo. The mixture was cooled and the resulting precipitates were collected by filtration. The obtained sulfate was treated with an aqueous solution of sodium bicarbonate and then the mixture was adjusted to pH 4.5 with acetic acid. The resulting precipitates were collected by filtration and air-dried to give 8-(4-carboxybenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine (0.66 g).

reactant | 8-(4-ethoxycarbonylbenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine | 1.04 g | C(C)OC(=O)C1=CC=C(COC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C=C1 | C21H20N2O3
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 8-(4-carboxybenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine | 0.66 g | C(=O)(O)C1=CC=C(COC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C=C1 | C19H16N2O3
